US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#39)
A dimethyl sulfoxide (1.5 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (57 μl, 446 μmol) was added to a dimethyl sulfoxide (6 ml) solution of 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-113) (115 mg, 372 μmol) and triethylamine (67 μl, 484 μmol) at 150° C., followed by stirring at the same temperature for 50 minutes under nitrogen atmosphere.

reactant | (3S)-3-(dimethylamino)pyrrolidine | 446 μmol, 57 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 372 μmol, 115 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)NC)F)C2=CC=CC=C2)C | C17H12FN3O2
reactant | triethylamine | 484 μmol, 67 μl | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)NC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C23H25N5O2
